US04248876
cis-3-Benzoyloxy-1-methyl-5-phenylpiperidine
A solution of cis-1-methyl-5-phenyl-3-piperidinol (3 g.) in dichloromethane (50 ml) was treated with benzoyl chloride (2.5 ml), the resulting mixture stirred for 2 hours at ambient temperature, and the solvent then removed under reduced pressure. The residue was partitioned between ether (100 ml) and 2 N HCl. The lower two of the three layers formed were basified to pH 9 with sodium carbonate and extracted with ether (2×100 ml). The organic phase was dried (over magnesium sulphate) and treated with excess ethereal HCl. The resulting oil crystallised on trituation with methanol/ethyl acetate to give the title compound as the hydrochloride hemi-hydrate (3.1 g;) m.p. 50°.

reactant | cis-1-methyl-5-phenyl-3-piperidinol | 3 g | CN1C[C@H](C[C@H](C1)C1=CC=CC=C1)O | C12H17NO
reactant | benzoyl chloride | 2.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | cis-3-Benzoyloxy-1-methyl-5-phenylpiperidine | C(C1=CC=CC=C1)(=O)O[C@@H]1CN(C[C@@H](C1)C1=CC=CC=C1)C | C19H21NO2
